US08420863B2
Alkylation of 5-bromo-3-chlorobenzaldehyde with acetonitrile following the method used in Example 115 gave 3-(5-bromo-3-chlorophenyl)-3-hydroxypropanenitrile as a clear oil. Yield (3.21 g, 54%): 1H NMR (400 MHz, DMSO-d6) δ 7.62 (t, J=2.0 Hz, 1H), 7.58-7.57 (m, 1H), 7.49-4.48 (m, 1H), 6.18 (d, J=4.8 Hz, 1H), 4.93-4.90 (m, 1H), 2.93 (ABd, J=16.8, 5.2 Hz, 1H), 2.86 (ABd, J=17.2, 6.8 Hz, 1H).

reactant | 5-bromo-3-chlorobenzaldehyde | BrC=1C=C(C=C(C=O)C1)Cl | C7H4BrClO
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(5-bromo-3-chlorophenyl)-3-hydroxypropanenitrile | BrC=1C=C(C=C(C1)C(CC#N)O)Cl | C9H7BrClNO
